US07737166B2
4-Cyano-N-(2-methoxyethyl)-N,5-dimethyl-7-[(3S)-3-(methylamino)pyrrolidin-1-yl]-6-phenyl-1,3-benzoxazole-2-carboxamide (#147)
Under nitrogen atmosphere, a dimethyl sulfoxide (1 ml) solution of (3S)-3-(methylamino)pyrrolidine (109 μl, 1.03 mmol) was added at 140 to 150° C. to a dimethyl sulfoxide (8 ml) solution of 4-cyano-7-fluoro-N-(2-methoxyethyl)-N,5-dimethyl-6-phenyl-1,3-benzoxazole-2-carboxamide (I-122) (314 mg, 855 μmol) and triethylamine (155 μl, 1.11 mmol), followed by stirring at the same temperature for 50 minutes. After cooling, saturated brine was added to the reaction liquid, and the mixture liquid was extracted with ethyl acetate. Next, the combined organic layer was washed with saturated brine, then dried over anhydrous magnesium sulfate, filtered, and the filtrate was concentrated under reduced pressure. The resulting residue was purified by middle-pressure liquid chromatography (eluent, dichloromethane:methanol=10:1, v/v) to obtain a rough product of the entitled compound. The rough product of the entitled compound was dissolved in chloroform, washed with an aqueous saturated sodium hydrogencarbonate solution, then the aqueous layer was extracted with chloroform. The combined organic layer was dried over anhydrous magnesium sulfate, filtered, and the filtrate was concentrated under reduced pressure to obtain the entitled compound (117 mg, 31%) as an amorphous substance.

reactant | dimethyl sulfoxide | 1 ml | CS(=O)C | C2H6OS
reactant | (3S)-3-(methylamino)pyrrolidine | 1.03 mmol, 109 μl | CN[C@@H]1CNCC1 | C5H12N2
reactant | dimethyl sulfoxide | 8 ml | CS(=O)C | C2H6OS
reactant | 4-cyano-7-fluoro-N-(2-methoxyethyl)-N,5-dimethyl-6-phenyl-1,3-benzoxazole-2-carboxamide | 855 μmol, 314 mg | C(#N)C1=C(C(=C(C2=C1N=C(O2)C(=O)N(C)CCOC)F)C2=CC=CC=C2)C | C20H18FN3O3
reactant | triethylamine | 1.11 mmol, 155 μl | C(C)N(CC)CC | C6H15N
solvent | brine | [Cl-].[Na+].O
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 4-Cyano-N-(2-methoxyethyl)-N,5-dimethyl-7-[(3S)-3-(methylamino)pyrrolidin-1-yl]-6-phenyl-1,3-benzoxazole-2-carboxamide | 117 mg, 31% | C(#N)C1=C(C(=C(C2=C1N=C(O2)C(=O)N(C)CCOC)N2C[C@H](CC2)NC)C2=CC=CC=C2)C | C25H29N5O3
